* Scilab Script
*-->lines(0)
*-->for i=0:200
*-->mprintf("G%d sum 0 z%d 0 {a%d}\n",i,i,i)
*-->end
G0 sum 0 z0 0 {a0}
G1 sum 0 z1 0 {a1}
G2 sum 0 z2 0 {a2}
G3 sum 0 z3 0 {a3}
G4 sum 0 z4 0 {a4}
G5 sum 0 z5 0 {a5}
G6 sum 0 z6 0 {a6}
G7 sum 0 z7 0 {a7}
G8 sum 0 z8 0 {a8}
G9 sum 0 z9 0 {a9}
G10 sum 0 z10 0 {a10}
G11 sum 0 z11 0 {a11}
G12 sum 0 z12 0 {a12}
G13 sum 0 z13 0 {a13}
G14 sum 0 z14 0 {a14}
G15 sum 0 z15 0 {a15}
G16 sum 0 z16 0 {a16}
G17 sum 0 z17 0 {a17}
G18 sum 0 z18 0 {a18}
G19 sum 0 z19 0 {a19}
G20 sum 0 z20 0 {a20}
G21 sum 0 z21 0 {a21}
G22 sum 0 z22 0 {a22}
G23 sum 0 z23 0 {a23}
G24 sum 0 z24 0 {a24}
G25 sum 0 z25 0 {a25}
G26 sum 0 z26 0 {a26}
G27 sum 0 z27 0 {a27}
G28 sum 0 z28 0 {a28}
G29 sum 0 z29 0 {a29}
G30 sum 0 z30 0 {a30}
G31 sum 0 z31 0 {a31}
G32 sum 0 z32 0 {a32}
G33 sum 0 z33 0 {a33}
G34 sum 0 z34 0 {a34}
G35 sum 0 z35 0 {a35}
G36 sum 0 z36 0 {a36}
G37 sum 0 z37 0 {a37}
G38 sum 0 z38 0 {a38}
G39 sum 0 z39 0 {a39}
G40 sum 0 z40 0 {a40}
G41 sum 0 z41 0 {a41}
G42 sum 0 z42 0 {a42}
G43 sum 0 z43 0 {a43}
G44 sum 0 z44 0 {a44}
G45 sum 0 z45 0 {a45}
G46 sum 0 z46 0 {a46}
G47 sum 0 z47 0 {a47}
G48 sum 0 z48 0 {a48}
G49 sum 0 z49 0 {a49}
G50 sum 0 z50 0 {a50}
G51 sum 0 z51 0 {a51}
G52 sum 0 z52 0 {a52}
G53 sum 0 z53 0 {a53}
G54 sum 0 z54 0 {a54}
G55 sum 0 z55 0 {a55}
G56 sum 0 z56 0 {a56}
G57 sum 0 z57 0 {a57}
G58 sum 0 z58 0 {a58}
G59 sum 0 z59 0 {a59}
G60 sum 0 z60 0 {a60}
G61 sum 0 z61 0 {a61}
G62 sum 0 z62 0 {a62}
G63 sum 0 z63 0 {a63}
G64 sum 0 z64 0 {a64}
G65 sum 0 z65 0 {a65}
G66 sum 0 z66 0 {a66}
G67 sum 0 z67 0 {a67}
G68 sum 0 z68 0 {a68}
G69 sum 0 z69 0 {a69}
G70 sum 0 z70 0 {a70}
G71 sum 0 z71 0 {a71}
G72 sum 0 z72 0 {a72}
G73 sum 0 z73 0 {a73}
G74 sum 0 z74 0 {a74}
G75 sum 0 z75 0 {a75}
G76 sum 0 z76 0 {a76}
G77 sum 0 z77 0 {a77}
G78 sum 0 z78 0 {a78}
G79 sum 0 z79 0 {a79}
G80 sum 0 z80 0 {a80}
G81 sum 0 z81 0 {a81}
G82 sum 0 z82 0 {a82}
G83 sum 0 z83 0 {a83}
G84 sum 0 z84 0 {a84}
G85 sum 0 z85 0 {a85}
G86 sum 0 z86 0 {a86}
G87 sum 0 z87 0 {a87}
G88 sum 0 z88 0 {a88}
G89 sum 0 z89 0 {a89}
G90 sum 0 z90 0 {a90}
G91 sum 0 z91 0 {a91}
G92 sum 0 z92 0 {a92}
G93 sum 0 z93 0 {a93}
G94 sum 0 z94 0 {a94}
G95 sum 0 z95 0 {a95}
G96 sum 0 z96 0 {a96}
G97 sum 0 z97 0 {a97}
G98 sum 0 z98 0 {a98}
G99 sum 0 z99 0 {a99}
G100 sum 0 z100 0 {a100}
G101 sum 0 z101 0 {a101}
G102 sum 0 z102 0 {a102}
G103 sum 0 z103 0 {a103}
G104 sum 0 z104 0 {a104}
G105 sum 0 z105 0 {a105}
G106 sum 0 z106 0 {a106}
G107 sum 0 z107 0 {a107}
G108 sum 0 z108 0 {a108}
G109 sum 0 z109 0 {a109}
G110 sum 0 z110 0 {a110}
G111 sum 0 z111 0 {a111}
G112 sum 0 z112 0 {a112}
G113 sum 0 z113 0 {a113}
G114 sum 0 z114 0 {a114}
G115 sum 0 z115 0 {a115}
G116 sum 0 z116 0 {a116}
G117 sum 0 z117 0 {a117}
G118 sum 0 z118 0 {a118}
G119 sum 0 z119 0 {a119}
G120 sum 0 z120 0 {a120}
G121 sum 0 z121 0 {a121}
G122 sum 0 z122 0 {a122}
G123 sum 0 z123 0 {a123}
G124 sum 0 z124 0 {a124}
G125 sum 0 z125 0 {a125}
G126 sum 0 z126 0 {a126}
G127 sum 0 z127 0 {a127}
G128 sum 0 z128 0 {a128}
G129 sum 0 z129 0 {a129}
G130 sum 0 z130 0 {a130}
G131 sum 0 z131 0 {a131}
G132 sum 0 z132 0 {a132}
G133 sum 0 z133 0 {a133}
G134 sum 0 z134 0 {a134}
G135 sum 0 z135 0 {a135}
G136 sum 0 z136 0 {a136}
G137 sum 0 z137 0 {a137}
G138 sum 0 z138 0 {a138}
G139 sum 0 z139 0 {a139}
G140 sum 0 z140 0 {a140}
G141 sum 0 z141 0 {a141}
G142 sum 0 z142 0 {a142}
G143 sum 0 z143 0 {a143}
G144 sum 0 z144 0 {a144}
G145 sum 0 z145 0 {a145}
G146 sum 0 z146 0 {a146}
G147 sum 0 z147 0 {a147}
G148 sum 0 z148 0 {a148}
G149 sum 0 z149 0 {a149}
G150 sum 0 z150 0 {a150}
G151 sum 0 z151 0 {a151}
G152 sum 0 z152 0 {a152}
G153 sum 0 z153 0 {a153}
G154 sum 0 z154 0 {a154}
G155 sum 0 z155 0 {a155}
G156 sum 0 z156 0 {a156}
G157 sum 0 z157 0 {a157}
G158 sum 0 z158 0 {a158}
G159 sum 0 z159 0 {a159}
G160 sum 0 z160 0 {a160}
G161 sum 0 z161 0 {a161}
G162 sum 0 z162 0 {a162}
G163 sum 0 z163 0 {a163}
G164 sum 0 z164 0 {a164}
G165 sum 0 z165 0 {a165}
G166 sum 0 z166 0 {a166}
G167 sum 0 z167 0 {a167}
G168 sum 0 z168 0 {a168}
G169 sum 0 z169 0 {a169}
G170 sum 0 z170 0 {a170}
G171 sum 0 z171 0 {a171}
G172 sum 0 z172 0 {a172}
G173 sum 0 z173 0 {a173}
G174 sum 0 z174 0 {a174}
G175 sum 0 z175 0 {a175}
G176 sum 0 z176 0 {a176}
G177 sum 0 z177 0 {a177}
G178 sum 0 z178 0 {a178}
G179 sum 0 z179 0 {a179}
G180 sum 0 z180 0 {a180}
G181 sum 0 z181 0 {a181}
G182 sum 0 z182 0 {a182}
G183 sum 0 z183 0 {a183}
G184 sum 0 z184 0 {a184}
G185 sum 0 z185 0 {a185}
G186 sum 0 z186 0 {a186}
G187 sum 0 z187 0 {a187}
G188 sum 0 z188 0 {a188}
G189 sum 0 z189 0 {a189}
G190 sum 0 z190 0 {a190}
G191 sum 0 z191 0 {a191}
G192 sum 0 z192 0 {a192}
G193 sum 0 z193 0 {a193}
G194 sum 0 z194 0 {a194}
G195 sum 0 z195 0 {a195}
G196 sum 0 z196 0 {a196}
G197 sum 0 z197 0 {a197}
G198 sum 0 z198 0 {a198}
G199 sum 0 z199 0 {a199}
G200 sum 0 z200 0 {a200}
